** sch_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_digital/fine_driver_6b/tb_fine_driver_6b.sch
**.subckt tb_fine_driver_6b
x1 VD4 VD7 VS4 VS4B DVDD 0 VD5 VD6 VD8 VD9 VS5 VS5B VS6 VS6B VS7 VS7B VS8 VS8B VS9 VS9B fine_driver_6b
VDD DVDD 0 1.2
V6 VD6 0 PULSE(0 1.2 20n 100p 100p 20n 40n)
V5 VD5 0 PULSE(0 1.2 10n 100p 100p 10n 20n)
V4 VD4 0 PULSE(0 1.2 5n 100p 100p 5n 10n)
V7 VD7 0 PULSE(0 1.2 40n 100p 100p 40n 80n)
V8 VD8 0 PULSE(0 1.2 80n 100p 100p 80n 160n)
V9 VD9 0 PULSE(0 1.2 160n 100p 100p 160n 320n)
CL4 VS4 0 10f
CL4B VS4B 0 10f
CL5 VS5 0 10f
CL5B VS5B 0 10f
CL6 VS6 0 10f
CL6B VS6B 0 10f
CL7 VS7 0 10f
CL7B VS7B 0 10f
CL8 VS8 0 10f
CL8B VS8B 0 10f
CL9 VS9 0 10f
CL9B VS9B 0 10f
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice


.control
  tran 100p 320n
  write tb_fine_driver_6b.raw

  * Multi-trace offset plots for Lower 3 bits (D4, D5, D6)
  plot v(VD4) v(VS4)+1.5 v(VS4B)+3.0 title 'Bit 4: Input (VD4), True (VS4), Complement (VS4B)' xlabel 'Time (s)' ylabel 'Voltage (V)'
  plot v(VD5) v(VS5)+1.5 v(VS5B)+3.0 title 'Bit 5: Input (VD5), True (VS5), Complement (VS5B)' xlabel 'Time (s)' ylabel 'Voltage (V)'
  plot v(VD6) v(VS6)+1.5 v(VS6B)+3.0 title 'Bit 6: Input (VD6), True (VS6), Complement (VS6B)' xlabel 'Time (s)' ylabel 'Voltage (V)'

  * Multi-trace offset plots for Upper 3 bits (D7, D8, D9)
  plot v(VD7) v(VS7)+1.5 v(VS7B)+3.0 title 'Bit 7: Input (VD7), True (VS7), Complement (VS7B)' xlabel 'Time (s)' ylabel 'Voltage (V)'
  plot v(VD8) v(VS8)+1.5 v(VS8B)+3.0 title 'Bit 8: Input (VD8), True (VS8), Complement (VS8B)' xlabel 'Time (s)' ylabel 'Voltage (V)'
  plot v(VD9) v(VS9)+1.5 v(VS9B)+3.0 title 'Bit 9: Input (VD9), True (VS9), Complement (VS9B)' xlabel 'Time (s)' ylabel 'Voltage (V)'
.endc


**** end user architecture code
**.ends

* expanding   symbol:  fine_driver_6b.sym # of pins=20
** sym_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_digital/fine_driver_6b/fine_driver_6b.sym
** sch_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_digital/fine_driver_6b/fine_driver_6b.sch
.subckt fine_driver_6b D4 D7 S4 S4B VDD VSS D5 D6 D8 D9 S5 S5B S6 S6B S7 S7B S8 S8B S9 S9B
*.ipin D4
*.opin S4
*.opin S4B
*.iopin VDD
*.iopin VSS
*.ipin D5
*.opin S5
*.opin S5B
*.ipin D6
*.opin S6
*.opin S6B
*.ipin D7
*.opin S7
*.opin S7B
*.ipin D8
*.opin S8
*.opin S8B
*.ipin D9
*.opin S9
*.opin S9B
x1 S4 D4 VDD VSS sg13cmos5l_buf_1
x2 S4B D4 VDD VSS sg13cmos5l_inv_1
x3 S5 D5 VDD VSS sg13cmos5l_buf_1
x4 S5B D5 VDD VSS sg13cmos5l_inv_1
x5 S6 D6 VDD VSS sg13cmos5l_buf_1
x6 S6B D6 VDD VSS sg13cmos5l_inv_1
x7 S7 D7 VDD VSS sg13cmos5l_buf_1
x8 S7B D7 VDD VSS sg13cmos5l_inv_1
x9 S8 D8 VDD VSS sg13cmos5l_buf_1
x10 S8B D8 VDD VSS sg13cmos5l_inv_1
x11 S9 D9 VDD VSS sg13cmos5l_buf_1
x12 S9B D9 VDD VSS sg13cmos5l_inv_1
.ends

.end
