* The loopgainprobe subcircuit needs to be named X999 (numeric node name chosen for compatibility with KiCad)

* The probe subcircuit is inserted as follows, the a_node/b_node (input/output) order is unimportant
* X999 a_node b_node loopgainprobe

* The following .control section performs the loop analysis and plots the results
* .control 
* run 
* alter i.X999.Ii acmag=1 
* alter v.X999.Vi acmag=0 
* run
* gnuplot magfile db(tian_loop()) 
* gnuplot phfile 180*cph(tian_loop())/pi 
* .endc

* The loopgainprobe can be disabled by setting both i.X999.Ii and v.X999.Vi to zero

* tian_loop.lib was translated from Frank Wiedmann's LTspice LoopGainProbe.asc into the ngspice dialect
* For more information see: https://sites.google.com/site/frankwiedmann/loopgain

* Michael Tian, V. Visvanathan, Jeffrey Hantgan, and Kenneth Kundert,
*    "Striving for Small-Signal Stability", IEEE Circuits and Devices Magazine,
*     vol. 17, no. 1, pp. 31-41, January 2001.

.subckt loopgainprobe a b
Ii 0 x DC 0 AC 0
Vi x a DC 0 AC 1
Vnodebuffer b x 0
.ends loopgainprobe

.func tian_loop() {1/(1-1/(2*(ac1.I(v.X999.Vi)*ac2.V(X999.x)-ac1.V(X999.x)*ac2.I(v.X999.Vi))+ac1.V(X999.x)+ac2.I(v.X999.Vi)))}


